US09422271B2
A mixture of ethyl 2,4-dichloropyrimidine-5-carboxylate (3.6 g, 16.3 mmol, 1.0 equiv.) and 5-cyclopropyl-1H-pyrazol-3-amine (3.0 g, 24.45 mmol, 1.5 equiv.) in EtOH (6 mL) was stirred at 20° C. under a nitrogen atmosphere for 10 min. The reaction mixture was filtered and the solid was washed by EtOH (10 mL) and MeOH (3 mL) to afford ethyl 2-chloro-4-(5-cyclopropyl-1H-pyrazol-3-ylamino)pyrimidine-5-carboxylate (3.5 g, 70%) as a white solid. LC-MS (m/z)=308.1 [M+H]+.

reactant | ethyl 2,4-dichloropyrimidine-5-carboxylate | 16.3 mmol, 3.6 g, 1.0 equiv. | ClC1=NC=C(C(=N1)Cl)C(=O)OCC | C7H6Cl2N2O2
reactant | 5-cyclopropyl-1H-pyrazol-3-amine | 24.45 mmol, 3.0 g, 1.5 equiv. | C1(CC1)C1=CC(=NN1)N | C6H9N3
solvent | EtOH | 6 mL | CCO | C2H6O
product | ethyl 2-chloro-4-(5-cyclopropyl-1H-pyrazol-3-ylamino)pyrimidine-5-carboxylate | 3.5 g, 70% | ClC1=NC=C(C(=N1)NC1=NNC(=C1)C1CC1)C(=O)OCC | C13H14ClN5O2
